US07528136B2
b) 4-[(2,4-Difluoro-benzyl)-(2,2,2-trichloro-ethoxycarbonyl)-amino]-pyrrolidine-1,2-dicarboxylicacid 1-tert-butyl ester
To a solution of 4-[(2,4-difluoro-benzyl)-(2,2,2-trichloro-ethoxycarbonyl)-amino]-pyrrolidine-1,2-dicarboxylicacid 1-tert-butyl ester 2-methyl ester (8 g, 14.7 mmol) in MeOH (50 ml) cooled to 0 degree was added LiOH (2.47 g, 58.8 mmol), and the mixture was stirred overnight. After removal of methanol, the residue was acidified with 2M HCl. The aqueous layer was extracted with EA, and the organic solution was dried and concentrated. The residue was purified by chromatography (PE:EA=3:1) on silica gel to afford the title product as yellow oil (3.5 g, 6.5 mmol). MS m/e=531.2 [M+H]+.

reactant | 4-[(2,4-difluoro-benzyl)-(2,2,2-trichloro-ethoxycarbonyl)-amino]-pyrrolidine-1,2-dicarboxylicacid 1-tert-butyl ester 2-methyl ester | 14.7 mmol, 8 g | COC(=O)C1N(CC(C1)N(C(=O)OCC(Cl)(Cl)Cl)CC1=C(C=C(C=C1)F)F)C(=O)OC(C)(C)C | C21H25Cl3F2N2O6
reactant | LiOH | 58.8 mmol, 2.47 g | [Li+].[OH-]
solvent | MeOH | 50 ml | CO | CH4O
product | 4-[(2,4-Difluoro-benzyl)-(2,2,2-trichloro-ethoxycarbonyl)-amino]-pyrrolidine-1,2-dicarboxylicacid 1-tert-butyl ester | 6.5 mmol, 3.5 g | C(C)(C)(C)OC(=O)N1C(CC(C1)N(C(=O)OCC(Cl)(Cl)Cl)CC1=C(C=C(C=C1)F)F)C(=O)O | C20H23Cl3F2N2O6
